US05556864
A solution of 3.00 g of 2-naphthaldehyde and 6.69 g of ethoxycarbonylmethylenetriphenylphosphorane in 100 ml of acetonitrile was heated under reflux for 1 hour, after which the reaction mixture was concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 4.32 g (yield 99%) of ethyl 3-(2-naphthyl)-2-propenoate as a colorless solid.

reactant | 2-naphthaldehyde | 3.00 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | ethoxycarbonylmethylenetriphenylphosphorane | 6.69 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | ethyl 3-(2-naphthyl)-2-propenoate | 4.32 g, yield 99% | C1=C(C=CC2=CC=CC=C12)C=CC(=O)OCC | C15H14O2
